US07973078B2
220 mg of methyl 4-{[(3-chloro-2-methylphenyl)amino]sulfonyl}benzoate was dissolved in 1.10 mL of DMF, and 168 mg of 2-bromo-N-(4-methoxybenzyl)acetamide and 100 mg of potassium carbonate were added thereto, followed by stirring at room temperature for 7 hours. To the reaction liquid was added water, followed by extraction with ethyl acetate, and the organic layer was washed with brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:3 to 4:6) to obtain 270 mg of methyl 4-[((3-chloro-2-methylphenyl)-{2-[(4-methoxybenzyl)amino]-2-oxoethyl}amino)sulfonyl]benzoate. The obtained methyl 4-[((3-chloro-2-methylphenyl)-{2-[(4-methoxybenzyl)amino]-2-oxoethyl}amino)sulfonyl]benzoate was dissolved in 2.00 mL of methanol and 1.50 mL of THF, and 1.05 mL of a 1 M aqueous sodium hydroxide solution was added thereto, followed by stirring at room temperature for 2 days. The reaction liquid was acidified by addition of 1 M hydrochloric acid, and then extracted with a mixed solvent of chloroform/methanol (5/1), and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel chromatography (chloroform:methanol=100:0 to 90:10) to obtain 204 mg of 4-[((3-chloro-2-methylphenyl) {2-[(4-methoxybenzyl)amino]-2-oxoethyl}amino)sulfonyl]benzoic acid.

reactant | methyl 4-[((3-chloro-2-methylphenyl)-{2-[(4-methoxybenzyl)amino]-2-oxoethyl}amino)sulfonyl]benzoate | ClC=1C(=C(C=CC1)N(S(=O)(=O)C1=CC=C(C(=O)OC)C=C1)CC(=O)NCC1=CC=C(C=C1)OC)C | C25H25ClN2O6S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 2.00 mL | CO | CH4O
solvent | THF | 1.50 mL | C1CCOC1 | C4H8O
product | 4-[((3-chloro-2-methylphenyl) {2-[(4-methoxybenzyl)amino]-2-oxoethyl}amino)sulfonyl]benzoic acid | 204 mg | ClC=1C(=C(C=CC1)N(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)CC(=O)NCC1=CC=C(C=C1)OC)C | C24H23ClN2O6S
